US08466282B2
5-(4-methoxybutyl)-1-(2-methylphenyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-1,2,3-triazole-4-carboxamide hydrochloride
tert-Butyl (3S,5R)-3-[{[5-(4-methoxybutyl)-1-(2-methylphenyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (255 mg) was dissolved in ethyl acetate (0.5 ml), 4N hydrogen chloride-ethyl acetate solution (0.5 ml) was added, and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and the residue was dried under reduced pressure to give the object product (220 mg).

reactant | tert-Butyl (3S,5R)-3-[{[5-(4-methoxybutyl)-1-(2-methylphenyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 255 mg | COCCCCC1=C(N=NN1C1=C(C=CC=C1)C)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C34H52N6O6
reactant | hydrogen chloride-ethyl acetate | 4N, 0.5 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 0.5 ml | C(C)(=O)OCC | C4H8O2
product | 5-(4-methoxybutyl)-1-(2-methylphenyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-1,2,3-triazole-4-carboxamide hydrochloride | 220 mg | Cl.COCCCCC1=C(N=NN1C1=C(C=CC=C1)C)C(=O)N([C@@H]1CNC[C@@H](C1)C(=O)N1CCOCC1)CC(C)C | InChI=1S/C29H44N6O4.ClH/c1-21(2)20-34(24-17-23(18-30-19-24)28(36)33-12-15-39-16-13-33)29(37)27-26(11-7-8-14-38-4)35(32-31-27)25-10-6-5-9-22(25)3;/h5-6,9-10,21,23-24,30H,7-8,11-20H2,1-4H3;1H/t23-,24+;/m1./s1
